US04767760
A mixture of 4 parts of 2-[4-[(4-chlorophenyl)cyanomethyl]-3-methoxyphenyl]-2,3,4,5-tetrahydro-3,5-dioxo-1,2,4-triazine-6-carbonitrile, 24 parts of concentrated hydrochloric acid and 40 parts of acetic acid is stirred and refluxed for 3 hours. The reaction mixture is evaporated in vacuo and the residue is stirred in water. The product is extracted with a mixture of trichloromethane and methanol (90:10 by volume). The extract is dried, filtered and evaporated, yielding 2-[4-[(4-chlorophenyl)cyanomethyl]-3-methoxyphenyl]-2,3,4,5-tetrahydro-3,5-dioxo-1,2,4-triazine-6-carboxylic acid.

reactant | 2-[4-[(4-chlorophenyl)cyanomethyl]-3-methoxyphenyl]-2,3,4,5-tetrahydro-3,5-dioxo-1,2,4-triazine-6-carbonitrile | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)N1N=C(C(NC1=O)=O)C#N)OC)C#N | C19H12ClN5O3
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[4-[(4-chlorophenyl)cyanomethyl]-3-methoxyphenyl]-2,3,4,5-tetrahydro-3,5-dioxo-1,2,4-triazine-6-carboxylic acid | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)N1N=C(C(NC1=O)=O)C(=O)O)OC)C#N | C19H13ClN4O5
